US08106077B2
To a 0° C. mixture of 2-hydroxy-4-methyl-benzoic acid methyl ester (1.0 g, 6.0 mmol), triphenylphosphine (1.9 g, 7.2 mmol), and n-butanol (0.89 g, 12.0 mmol) in THF (10.0 mL) is added DIAD (1.45 g, 7.2 mmol) dropwise. The mixture is stirred at room temperature overnight. The mixture is evaporated to dryness under reduced pressure. The residue is partitioned between EtOAc (50 mL) and water (50 mL). The organic phase is washed with brine (50 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to a residue. The residue is purified by flash chromatography to give 2-Butoxy-4-methyl-benzoic acid methyl ester as a syrup (1.0 g, 74%). LC-MS: 223.3 (M+1).

reactant | 2-hydroxy-4-methyl-benzoic acid methyl ester | 6.0 mmol, 1.0 g | COC(C1=C(C=C(C=C1)C)O)=O | C9H10O3
reactant | triphenylphosphine | 7.2 mmol, 1.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butanol | 12.0 mmol, 0.89 g | C(CCC)O | C4H10O
reactant | DIAD | 7.2 mmol, 1.45 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 2-Butoxy-4-methyl-benzoic acid methyl ester | 1.0 g, 74% | COC(C1=C(C=C(C=C1)C)OCCCC)=O | C13H18O3
